US07241760B2
4-Bromo-6-methyl-pyridazine-1-oxide
6-Methyl-4-nitro-pyridazine-1-oxide (270 mg, 1.74 mmol) was dissolved in 2 mL acetic acid, acetyl bromide (650 mL, 8.7 mmol) was added and the reaction mixture was heated at reflux for 1 h. The reaction mixture was poured into crushed ice, the mixture was neutralized by addition of sodium hydroxide and extracted three times with dichloromethane (50 mL each). The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The crude product was purified by flash-chromatography on silica gel (heptane/ethyl acetate 80:20->30:70 gradient) and the desired product was obtained as a light brown solid (150 mg, 45%).

reactant | 6-Methyl-4-nitro-pyridazine-1-oxide | 1.74 mmol, 270 mg | CC1=CC(=CN=[N+]1[O-])[N+](=O)[O-] | C5H5N3O3
reactant | acetyl bromide | 8.7 mmol, 650 mL | C(C)(=O)Br | C2H3BrO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-6-methyl-pyridazine-1-oxide | BrC1=CN=[N+](C(=C1)C)[O-] | C5H5BrN2O
